US07429605B2
2-Methyl-3-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(4-trifluoromethyl-phenyl)-pyridine
36 mg (0.90 mmol) of 95% sodium hydride were added to at 0° C. to a solution of 173 mg (0.75 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol in 4.0 ml N,N-dimethylformamide and stirred for 30 min. at 0° C. 214 mg (0.75 mmol) 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (WO 2005/049573) were given to the reaction mixture and stirring continued at room temperature (r.t.) overnight. After addition of 8 ml water the mixture was stirred for 1 h, the formed precipitate isolated by filtration, washed with water, water/methanol 1:1, and ether. The residue was purified by chromatography on silica (eluent: ethyl acetate) to yield 227 mg (63%) of the title compound as white crystals.

reactant | sodium hydride | 0.90 mmol, 36 mg | [H-].[Na+]
reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.75 mmol, 173 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | 0.75 mmol, 214 mg | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-3-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(4-trifluoromethyl-phenyl)-pyridine | 227 mg, 63% | CC1=NC(=CC=C1COC1=CC(=C(C=C1)CCCCN1N=NC=C1)C)C1=CC=C(C=C1)C(F)(F)F | C27H27F3N4O
